US08383821B2
tert-Butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate.
4-Phenyl-4-piperidinecarboxylic acid p-methylbenzenesulfonate (19.0 g, 50.3 mmol) was suspended in dry tetrahydrofuran (100 mL) and cooled to 0° C. To this was added borane tetrahydrofuran complex (1 M in THF, 100 mL, 100 mmol) cautiously over 15 min and the reaction mixture allowed to warm to room temperature overnight. The reaction mixture was cooled to 0° C., treated with di-tert-butyl carbonate (15.0 g, 218 mmol) and 10 N sodium hydroxide (12 mL), stirred at 0° C., and at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with water (2×), brine (2×), dried over sodium sulfate and concentrated. The crude product was triturated with 10% ethyl acetate/hexanes solution to afford 9.2 g (63%) of the title compound. 1H-NMR (CD3OD, 300 MHz) δ 7.35-7.43 (m, 4H), 7.24-7.26 (m, 1H), 3.78-3.85 (m, 2H), 3.49 (s, 2H), 2.97 (m, 2H), 2.17-2.21 (m, 2H), 1.77-1.87 (m, 2H), 1.46 (s, 9H). Mass spec.: 292.17 (MH)+.

reactant | 4-Phenyl-4-piperidinecarboxylic acid p-methylbenzenesulfonate | 50.3 mmol, 19.0 g | CC1=CC=C(C=C1)S(=O)(=O)O.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | borane tetrahydrofuran | 100 mmol, 1 M, 100 mL | O1CCCC1.B
reactant | di-tert-butyl carbonate | 218 mmol, 15.0 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | sodium hydroxide | 10 N, 12 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 9.2 g, 63% | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
